US07902252B2
2.112. Synthesis of 4-(3-cyanophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (105)
The title compound was synthesized from methyl 4-(3-cyanophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (0.021 g, 0.079 mmol) and lithium hydroxide (0.035 g, 0.83 mmol), according to General Procedure 7. A 1:1 mixture of THF and methanol (2 mL) was used. The resulting product was purified by reverse phase HPLC, eluting with a gradient of 40-80% MeOH: water (with 0.1% formic acid) to afford a light pink solid: 8.8 mg (44% yield). 1H NMR (400 MHz, METHANOL-d4) δ ppm 2.21 (dd, J=6.35, 2.34 Hz, 1H), 2.79 (s, 2H), 2.91-3.02 (m, 1H), 4.26 (s, 1H), 6.52 (s, 1H), 7.42-7.48 (m, 1H), 7.49-7.56 (m, 3H); LCMS (ESI−) 251.2 (M−H); HPLC (UV=100%), (ELSD=100%).

reactant | methyl 4-(3-cyanophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 0.079 mmol, 0.021 g | C(#N)C=1C=C(C=CC1)C1CCC=2NC(=CC21)C(=O)OC | C16H14N2O2
reactant | lithium hydroxide | 0.83 mmol, 0.035 g | [OH-].[Li+]
reactant | THF | C1CCOC1 | C4H8O
solvent | methanol | 2 mL | CO | CH4O
product | 4-(3-cyanophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | 44% yield | C(#N)C=1C=C(C=CC1)C1CCC=2NC(=CC21)C(=O)O | C15H12N2O2
